US07662771B2
Using a method similar to that described in Example 165, 5-[2-(2-methoxy-phenyl)-oxazol-4-yl]-pentanoic acid methyl ester (1.65 g, 5.7 mmol) with boron tribromide (1.0 M in CH2Cl2, 17.2 m/L) in CH2Cl2 gives 5-[2-(2-hydroxy-phenyl)-oxazol-4-yl]-pentanoic acid methyl ester (0.76 g, 48%). MS (ES): (M+1)+ 276.1, 277.2 m/z.

reactant | 5-[2-(2-methoxy-phenyl)-oxazol-4-yl]-pentanoic acid methyl ester | 5.7 mmol, 1.65 g | COC(CCCCC=1N=C(OC1)C1=C(C=CC=C1)OC)=O | C16H19NO4
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-[2-(2-hydroxy-phenyl)-oxazol-4-yl]-pentanoic acid methyl ester | 0.76 g, 48% | COC(CCCCC=1N=C(OC1)C1=C(C=CC=C1)O)=O | C15H17NO4
